US07553798B2
A mixture of 1-fluoro-2-nitrobenzene (14.5 g, 0.1 mol), 4-iodopyrazole (20 g, 0.1 mol), potassium carbonate anhydrous (14 g, 0.1 mol) and catalytical amounts of copper(II) oxide in pyridine (35 ml) was heated to reflux for 16 hours. After cooling, the mixture was diluted with dichloromethane (1 litre). Activated charcoal (12 g) was then added and the mixture was heated to reflux for 1 hour. After cooling, it was filtered through celite. The filtrate was evaporated and the remaining oil was purified by silica gel chromatography using ethyl acetate and hexane as eluents, giving 4-iodo-1-(2-nitro-phenyl)-1H-pyrazole (24 g).

reactant | 1-fluoro-2-nitrobenzene | 0.1 mol, 14.5 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-iodopyrazole | 0.1 mol, 20 g | IC=1C=NNC1 | C3H3IN2
reactant | potassium carbonate | 0.1 mol, 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | charcoal | 12 g | C | CH4
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1 litre | ClCCl | CH2Cl2
catalyst | copper(II) oxide | [Cu]=O
product | 4-iodo-1-(2-nitro-phenyl)-1H-pyrazole | 24 g | IC=1C=NN(C1)C1=C(C=CC=C1)[N+](=O)[O-] | C9H6IN3O2
